US07091214B2
3-Chloroperoxybenzoic acid (2.91 g, 9.3 mmol, 55% pure) was added to a solution of tert-butyl[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate (3.2 g, 6.1 mmol) in chloroform (60 mL). The reaction was stirred for 1 hour and then cooled with an ice bath. Ammonium hydroxide (40 mL) was added and the reaction was stirred for 10 minutes. p-Toluenesulfonyl chloride (1.16 g, 6.1 mmol) was added in two portions. The cooling bath was removed and the mixture was stirred for an additional 16 hours. The layers were separated and the aqueous fraction was extracted with dichloromethane. The combined organic fractions were washed sequentially with water and saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification of the residue by flash column chromatography (CMA/chloroform) and subsequent recrystallization from acetonitrile yielded 1.15 g of tert-butyl[4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo [4,5-c]quinolin-1-ylmethyl)benzyl]carbamate as a tan solid.

reactant | 3-Chloroperoxybenzoic acid | 9.3 mmol, 2.91 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | tert-butyl[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate | 6.1 mmol, 3.2 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(=NC=2C=NC=3C=C(C=CC3C21)Br)COCC)=O | C26H29BrN4O3
reactant | Ammonium hydroxide | 40 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 6.1 mmol, 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl[4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo [4,5-c]quinolin-1-ylmethyl)benzyl]carbamate | 1.15 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)=O | C26H30BrN5O3
